US03974176
3.8 g of ethyl 5-chloro-3-p-chlorophenyl-1-phenyl-pyrazole-4-acetate, 13 ml of ethanol and 1.0 g of sodium hydroxide are heated in 13 ml of water for 1 hour for boiling. The pH is reduced to 10 and the alcohol is distilled off in vacuo. The aqueous solution is shaken up with ether and purified with active charcoal. Acidification is carried out with dilute hydrochloric acid and with a yield of 83 % 5-chloro-3-p-chlorophenyl-1-phenyl-pyrazole-4-acetic acid is obtained; F 179.5°-181°.

reactant | ethyl 5-chloro-3-p-chlorophenyl-1-phenyl-pyrazole-4-acetate | 3.8 g | ClC1=C(C(=NN1C1=CC=CC=C1)C1=CC=C(C=C1)Cl)CC(=O)OCC | C19H16Cl2N2O2
reactant | ethanol | 13 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 1.0 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 13 ml | O | H2O
product | 5-chloro-3-p-chlorophenyl-1-phenyl-pyrazole-4-acetic acid | yield of 83 % | ClC1=C(C(=NN1C1=CC=CC=C1)C1=CC=C(C=C1)Cl)CC(=O)O | C17H12Cl2N2O2
